US05318720
In a 50 ml-round-bottomed flask, 1.50 g of (3.81 mM) of 2-(4-decyloxyphenyl)-5-acetylbenzoxazole was dissolved in 10 ml of dichloromethane, followed by successive addition of 0.66 g of (3.82 mM) of m-chloroperbenzoic acid and 0.40 g (4.00 mM) of potassium hydrogencarbonate and heat-refluxing for 7 hours and 40 minutes under stirring. After cooling to room temperature, 0.33 g (1.91 mM) of m-chloroperbenzoic acid and 0.20 g (2.00 mM) of potassium hydrogencarbonate was successively added, followed by heat-refluxing for 12 hours under stirring. After the reaction, the insoluble was filtered off and the filtrate was subjected to reduced pressure distillation to obtain a residue. The residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=100/1) to obtain 2-(4-decyloxyphenyl)-5-acetoxybenzoxazole. Then, 0.51 g (7.73 mM) of potassium hydroxide was dissolved in 50 ml of ethanol under heating. To the solution, the above-prepared 2-(4-decyloxyphenyl)-5-acetoxybenzoxazole was added, followed by stirring for 30 minutes at about 60° C. After the reaction, ethanol in the reaction mixture was distilled off under reduced pressure. To the resultant residue, 50 ml of water was added, followed by addition of 0.7 ml of hydrochloric acid under stirring on an ice bath to precipitate a crystal. The crystal was recovered by filtration and washed with water, followed by recrystallization from methanol to obtain 0.27 g of 2-(4-decyloxyphenyl)-5-hydroxybenzoxazole (Yield: 19.3%).

reactant | m-chloroperbenzoic acid | 3.82 mM, 0.66 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | potassium hydrogencarbonate | 4.00 mM, 0.40 g | C(O)([O-])=O.[K+]
reactant | m-chloroperbenzoic acid | 1.91 mM, 0.33 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | potassium hydrogencarbonate | 2.00 mM, 0.20 g | C(O)([O-])=O.[K+]
reactant | 2-(4-decyloxyphenyl)-5-acetylbenzoxazole | 3.81 mM, 1.50 g | C(CCCCCCCCC)OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(C)=O | C25H31NO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(4-decyloxyphenyl)-5-acetoxybenzoxazole | C(CCCCCCCCC)OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)OC(C)=O | C25H31NO4
